US07977331B1
To a suspension of methyl 2-(2-amino-5-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate (2.44 g, 6.68 mmol), sodium acetate (602 mg, 7.3 mmol) and acetic acid (0.45 ml, 7.86 mmol) in tetrahydrofuran (20 ml) was added dropwise chloroacetyl chloride (0.60 ml, 7.53 mmol), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium carbonate solution and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and a mixed solvent of hexane:ethyl acetate (4:1) was added to the residue. The precipitated solid was collected by filtration to give methyl 2-[2-(2-chloroacetylamino)-5-fluorophenyl]-3-cyclohexyl-1H-indole-6-carboxylate (2.5 g, yield 84.7%).

reactant | methyl 2-(2-amino-5-fluorophenyl)-3-cyclohexyl-1H-indole-6-carboxylate | 6.68 mmol, 2.44 g | NC1=C(C=C(C=C1)F)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C22H23FN2O2
reactant | sodium acetate | 7.3 mmol, 602 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 7.86 mmol, 0.45 ml | C(C)(=O)O | C2H4O2
reactant | chloroacetyl chloride | 7.53 mmol, 0.60 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 2-[2-(2-chloroacetylamino)-5-fluorophenyl]-3-cyclohexyl-1H-indole-6-carboxylate | 2.5 g, yield 84.7% | ClCC(=O)NC1=C(C=C(C=C1)F)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C24H24ClFN2O3
